US07572809B2
a) Preparation of 5-Methoxy-6-(2-methoxy-ethoxy)-indan-1-one
To a mixture of 6-Hydroxy-5-methoxy-indan-1-one (10.5 g, 59 mmol), K2CO3 (16 g, 118 mmol), tetrabutyl-ammonium iodide (2 g, 5.9 mmol) suspended in actone (200 ml), 1-Bromo-3-methoxy-propane (8.5 ml, 88.5 mmol) was added, and then the mixture was heated to reflux for 4 hs under N2. The solid was filtered off and washed by actone (50 ml×3), the filtrate was concentrated to give the crude product which was used directly for next step without purification. LC-MS: m/e 237 (MH+)

reactant | 6-Hydroxy-5-methoxy-indan-1-one | 59 mmol, 10.5 g | OC1=C(C=C2CCC(C2=C1)=O)OC | C10H10O3
reactant | K2CO3 | 118 mmol, 16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Bromo-3-methoxy-propane | 88.5 mmol, 8.5 ml | BrCCCOC | C4H9BrO
catalyst | tetrabutyl-ammonium iodide | 5.9 mmol, 2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-Methoxy-6-(2-methoxy-ethoxy)-indan-1-one | COC=1C=C2CCC(C2=CC1OCCOC)=O | C13H16O4
